US03979381
B. 2,3,3a,4,6,7-Hexahydro-3-phenyl-7-(phenylmethylene)-2-propylthiopyrano[4,3-c]pyrazole-5-oxide (two isomers)
n-Propyl hydrazine (1.14g) is added to a suspension of 3.8g of tetrahydro-3,5-bis-(phenylmethylene)-4H-thiopyran-4-one-1-oxide in 75ml of methanol and the mixture is heated at reflux temperature for 2 hours. The crystals which form on cooling are collected to give 1.0g of the title compound, melting point 176°-177.5°C. The mother liquor is concentrated in vacuo and the residue is crystallized from acetonitrile/water (2:1) to yield an additional 0.6g of the title compound, melting point 176.5°-178°C. (isomer A)

reactant | n-Propyl hydrazine | 1.14g | C(CC)NN | C3H10N2
reactant | tetrahydro-3,5-bis-(phenylmethylene)-4H-thiopyran-4-one-1-oxide | 3.8g | C1(=CC=CC=C1)C=C1CS(CC(C1=O)=CC1=CC=CC=C1)=O | C19H16O2S
solvent | methanol | 75ml | CO | CH4O
product | 2,3,3a,4,6,7-Hexahydro-3-phenyl-7-(phenylmethylene)-2-propylthiopyrano[4,3-c]pyrazole-5-oxide | 1.0g | C1(=CC=CC=C1)C1C2C(=NN1CCC)C(CS(C2)=O)=CC2=CC=CC=C2 | C22H24N2OS
